US07253192B2
I] 2-Methyl-2-[2-methyl-4-(1-prop-2-ynyl-cyclopropylmethoxy)-phenoxy]-propionic acid ethyl ester
A solution of 0.201 (0.50 mmol) 2-methyl-2-{2-methyl-4-[1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropylmethoxy]-phenoxy}-propionic acid ethyl ester in 5 ml THF were treated at 0° C. with 0.55 ml (1 M solution in THF, 0.55 mmol) of n-Bu4NF and stirred for 1.5 h at this temperature. The reaction mixture was then diluted with water and extracted with ether (three times). The organic layers were washed with water, dried (Na2SO4) and evaporated to give 0.152 g of the title compound as light yellow oil.

reactant | 2-methyl-2-{2-methyl-4-[1-(3-trimethylsilanyl-prop-2-ynyl)-cyclopropylmethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC1(CC1)CC#C[Si](C)(C)C)C)C)=O | C23H34O4Si
reactant | n-Bu4NF | 0.55 mmol, 1 M, 0.55 ml | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Methyl-2-[2-methyl-4-(1-prop-2-ynyl-cyclopropylmethoxy)-phenoxy]-propionic acid ethyl ester | 0.152 g | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC1(CC1)CC#C)C)C)=O | C20H26O4
